US07635684B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-benzyloxypropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole
To a solution of 4-{[4-(3-benzyloxypropoxy)phenyl]-methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one (5.08 g), acetobromo-α-D-glucose (5.49 g) and benzyltri(n-butyl)ammonium chloride (2.08 g) in dichloromethane (40 mL) was added 5 mol/L aqueous sodium hydroxide solution (8 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent: n-hexane/ethyl acetate=1/1-1/3-1/5). The purified material was further purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1-1/2-1/4) to give the title compound (2.75 g).

reactant | 4-{[4-(3-benzyloxypropoxy)phenyl]-methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | 5.08 g | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)CC=1C(NNC1C(C)C)=O | C23H28N2O3
reactant | acetobromo-α-D-glucose | 5.49 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | sodium hydroxide | 5 mol/L, 8 mL | [OH-].[Na+]
catalyst | benzyltri(n-butyl)ammonium chloride | 2.08 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-benzyloxypropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole | 2.75 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OCCCOCC1=CC=CC=C1)C(C)C | C37H46N2O12
